US07462600B2
Preparation 19: 5-nitro-2-[1,2,4]triazol-1-yl-benzonitrile
2-Fluoro-5-nitro-benzonitrile (1.0 g, 6.0 mmol) was dissolved in anhydrous DMF (6 mL), then treated with [1,2,4]-triazole (0.46 g, 6.7 mmol), cesium carbonate (2.9 g, 8.9 mmol), and heated (50° C.) overnight. After cooling to RT, the mixture was treated with water and the solid title compound collected by filtration (1.14 g). MS (ESI+) for m/z 216 (M+H)+.

reactant | 2-Fluoro-5-nitro-benzonitrile | 6.0 mmol, 1.0 g | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | [1,2,4]-triazole | 6.7 mmol, 0.46 g | N1N=CN=C1 | C2H3N3
reactant | cesium carbonate | 8.9 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-nitro-2-[1,2,4]triazol-1-yl-benzonitrile | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1N=CN=C1 | C9H5N5O2
